US08859768B2
To a solution of N-(2,4-dimethoxybenzyl)-4-iodo-5-methylpyridin-2-amine (118 g, 310 mmol) in DCM (1900 mL) was added TFA (360 mL, 4830 mmol). The reaction mixture was allowed to stir at rt for 2 h and was then concentrated. The residue was dissolved in EtOAc and diluted with saturated aqueous NaHCO3. The mixture was extracted with EtOAc. The organic solutions were combined, washed with brine, dried over Na2SO4, filtered and concentrated to give 4-iodo-5-methylpyridin-2-amine (53 g, 75%) which was used in the next step without purification.

reactant | N-(2,4-dimethoxybenzyl)-4-iodo-5-methylpyridin-2-amine | 310 mmol, 118 g | COC1=C(CNC2=NC=C(C(=C2)I)C)C=CC(=C1)OC | C15H17IN2O2
reactant | TFA | 4830 mmol, 360 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1900 mL | C(Cl)Cl | CH2Cl2
product | 4-iodo-5-methylpyridin-2-amine | 53 g, 75% | IC1=CC(=NC=C1C)N | C6H7IN2
